US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (50 mg) and 2-fluoronicotinic acid to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-fluoropyridine-3-carboxamide. MS (Q1) 328.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-fluoronicotinic acid | FC1=C(C(=O)O)C=CC=N1 | C6H4FNO2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-fluoropyridine-3-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C(=NC=CC1)F)C1=NC=CC=C1 | C17H11ClFN3O
